US08685977B2
4-[3-(Trifluoromethoxy)benzyl]benzoic acid
To a solution of ethyl 4-[3-(trifluoromethoxy)benzyl]benzoate (Preparation 149, 950 mg, 2.93 mmol) in THF/MeOH/water (4:3:2, 27 mL) was added lithium hydroxide (246 mg, 5.86 mmol) and the mixture was stirred at room temperature for 4 hours. The mixture was concentrated in vacuo and acidified with 1M hydrochloric acid solution. The resulting precipitate was filtered off and dried to give the title compound as a white solid (600 mg, 69%).

reactant | ethyl 4-[3-(trifluoromethoxy)benzyl]benzoate | 2.93 mmol, 950 mg | FC(OC=1C=C(CC2=CC=C(C(=O)OCC)C=C2)C=CC1)(F)F | C17H15F3O3
reactant | lithium hydroxide | 5.86 mmol, 246 mg | [OH-].[Li+]
solvent | THF MeOH water | 27 mL | C1CCOC1.CO.O
product | 4-[3-(Trifluoromethoxy)benzyl]benzoic acid | 600 mg, 69% | FC(OC=1C=C(CC2=CC=C(C(=O)O)C=C2)C=CC1)(F)F | C15H11F3O3
